US04406828
61.8 g of 1,1-dimethyl-4-cyano-tetralin in 100 ml of absolute ether are added dropwise while stirring to a Grignard solution prepared from 600 ml of ether, 34.7 g of magnesium shavings and 166 g of ethyl bromide. The mixture is held at reflux temperature for 6 hours, cooled and acidified with 10% hydrochloric acid. The aqueous phase is separated as rapidly as possible and held at reflux temperature for 1 hour. It is cooled, extracted with ether, washed neutral with water, dried over sodium sulphate and evaporated. Distillation in vacuo gives 39.4 g of 1,1-dimethyl-4-propionyl-tetralin of boiling point 75° C./0.05 mmHg; nD20 =1.5263; yield 55%. Odour: rose note, tobacco-like (light), dried fruits, berries, damascone, honey.

reactant | 1,1-dimethyl-4-cyano-tetralin | 61.8 g | CC1(CCC(C2=CC=CC=C12)C#N)C | C13H15N
reactant | magnesium | 34.7 g | [Mg] | Mg
reactant | ethyl bromide | 166 g | C(C)Br | C2H5Br
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ether | 600 ml | CCOCC | C4H10O
product | 1,1-dimethyl-4-propionyl-tetralin | 39.4 g, yield 55% | CC1(CCC(C2=CC=CC=C12)C(CC)=O)C | C15H20O
